US07781441B2
b) 2-(2-Methoxy-phenoxy)-ethylamine
Under an atmosphere of Nitrogen, 3N HCl (3 ml) was added to a solution of [2-(2-methoxy-phenoxy)-ethyl]-carbamic acid tert-butyl ester (320 mg, 1.20 mmol) in dioxane (3 ml). The mixture was heated to reflux (2 h). Upon cooling, the reaction mixture was taken up in ethyl acetate, and extracted several times with H2O. The combined H2O extracts were then made alkaline by addition of NaOH 2N, and extracted with ethyl acetate. The ethyl acetate extract was dried (Na2SO4), and the solvent was evaporated. The obtained product (180 mg, 90%) was used in the next step without further purification.

reactant | HCl | 3N, 3 ml | Cl | ClH
reactant | [2-(2-methoxy-phenoxy)-ethyl]-carbamic acid tert-butyl ester | 1.20 mmol, 320 mg | C(C)(C)(C)OC(NCCOC1=C(C=CC=C1)OC)=O | C14H21NO4
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Methoxy-phenoxy)-ethylamine | COC1=C(OCCN)C=CC=C1 | C9H13NO2
